US06265411B1
A solution of 5-chlorosulphonyloxindole (1 g, 4.3 mmol), (prepared as described for the starting material in Example 60), and 4-(2-aminoethyl)morpholine (620 μl, 4.7 mmol) in ethanol (20 ml) was heated at 65° C. for 1 hour. The solvent was removed by evaporation, the residue was partitioned between methylene chloride and water and the aqueous layer was adjusted to pH7-8 with 5% aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 5-(2-morpholinoethylaminosulphonyl)oxindole (750 mg, 54%).

reactant | 5-chlorosulphonyloxindole | 4.3 mmol, 1 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | 4-(2-aminoethyl)morpholine | 4.7 mmol, 620 μl | NCCN1CCOCC1 | C6H14N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(2-morpholinoethylaminosulphonyl)oxindole | 750 mg, 54% | O1CCN(CC1)CCNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H19N3O4S
